US06410483B1
Methyl 2-[(4,6-Dimethoxypyrimidin-2-yl)aminocarbonylaminosulfonyl]-4-[2-(methoxycarbonylamino)ethyl]benzoate
0.26 ml (1.7 mmol) of DBU was added dropwise to a suspension of 0.54 g (1.7 mmol) of methyl 2-aminosulfonyl-4-[2-(methoxycarbonylamino)ethyl]benzoate and 0.47 g (1.7 mmol) of N-(4,6-dimethoxypyrimidin-2-yl)phenylcarbamate in 15 ml of acetonitrile. After 2 h, the mixture was diluted with water and diethyl ether and acidified with HCl to pH 1-2, and the product precipitated was removed by filtration, washed with water and diethyl ether and dried. Yield: 0.47 g (55.6%) of methyl 2-[(4,6-dimethoxypyrimidin-2-yl)aminocarbonylaminosulfonyl]-4-[2-(methoxycarbonylamino)ethyl]benzoate of m.p.: 165-169° C./decomp.

reactant | DBU | 1.7 mmol, 0.26 ml | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | methyl 2-aminosulfonyl-4-[2-(methoxycarbonylamino)ethyl]benzoate | 1.7 mmol, 0.54 g | NS(=O)(=O)C1=C(C(=O)OC)C=CC(=C1)CCNC(=O)OC | C12H16N2O6S
reactant | N-(4,6-dimethoxypyrimidin-2-yl)phenylcarbamate | 1.7 mmol, 0.47 g | COC1=NC(=NC(=C1)OC)N(C([O-])=O)C1=CC=CC=C1
reactant | HCl | Cl | ClH
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
solvent | water | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
product | Methyl 2-[(4,6-Dimethoxypyrimidin-2-yl)aminocarbonylaminosulfonyl]-4-[2-(methoxycarbonylamino)ethyl]benzoate | COC1=NC(=NC(=C1)OC)NC(=O)NS(=O)(=O)C1=C(C(=O)OC)C=CC(=C1)CCNC(=O)OC | C19H23N5O9S
